US05366982
A mixture of 3.2 g of 2-chloro-4-phenyl-quinoline (prepared according to the method of S. Kwon and K. Isagawa, Yoki Gosei Kagaku Shi 973,31, 313) and 5.9 g of methyl 6-amino-2,2-dimethylhexanoate is heated to 100° C. for 8 hours. After cooling, the residue is purified by chromatography on silica gel (eluent: 98:2 dichloromethane/methanol) to give methyl 2,2-dimethyl-6-[(4-phenyl-2-quinolyl)amino]hexanoate obtained as an oil.

reactant | 2-chloro-4-phenyl-quinoline | 3.2 g | ClC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H10ClN
reactant | methyl 6-amino-2,2-dimethylhexanoate | 5.9 g | NCCCCC(C(=O)OC)(C)C | C9H19NO2
product | methyl 2,2-dimethyl-6-[(4-phenyl-2-quinolyl)amino]hexanoate | CC(C(=O)OC)(CCCCNC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1)C | C24H28N2O2
